US08536214B2
(R)-(1-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol (0.150 mmol, 46.6 mg) was suspended in dichlormethane (2 mL) before addition of triethylamine (0.299 mmol, 0.042 mL, 30.3 mg) then trifluoromethanesulfonic anhydride (0.150 mmol, 0.025 mL, 42.2 mg) as a solution in dichloromethane (500 μL). The reaction was stirred for 60 h before the mixture was diluted with 0.5N HCl (3 mL) and DCM (3 mL). The phases mixed and separated using a hydrophobic frit and the organic layer concentrated to give a brown residue which was dissolved in DMSO (1 mL) and purified on acidic preparative HPLC to give (R)-1,1,1-trifluoro-N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)methanesulfonamide (19.3 mg, 0.044 mmol, 21.9%). 1H NMR (400 MHz, CDCl3) δ 2.92 (m, 2H) 3.32 (m, 2H) 4.48 (m, 1H) 4.65 (s, 2H) 5.26 (m, 3H) 7.12 (m, 2H) 7.24 (d, 1H) 7.42 (s, 1H).

reactant | (R)-(1-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | 0.150 mmol, 46.6 mg | N[C@@H]1CC2=CC=C(C=C2C1)CN1N=C(C(=C1)CO)C(F)(F)F | C15H16F3N3O
reactant | triethylamine | 0.299 mmol, 0.042 mL, 30.3 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.150 mmol, 0.025 mL, 42.2 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichlormethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 μL | ClCCl | CH2Cl2
solvent | HCl | 0.5N, 3 mL | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (R)-1,1,1-trifluoro-N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)methanesulfonamide | 0.044 mmol, 19.3 mg, 21.9% | FC(S(=O)(=O)N[C@@H]1CC2=CC=C(C=C2C1)CN1N=C(C(=C1)CO)C(F)(F)F)(F)F | C16H15F6N3O3S
